US05604229
Diethyl acetamidomalonate (6.0 g) was dissolved in 50 ml of dehydrated ethanol and 2.26 g of sodium ethoxide and 5.22 g of 5-bromo-1-pentene were added thereto. The mixture was refluxed under a nitrogen atmosphere overnight. The reaction mixture was neutralized and concentrated. The concentrate was purified by silica gel column chromatography using hexane-ethyl acetate (5:1→2:1) as an eluent to give 4.871 g of colorless, oily diethyl 2-acetamido-2-pentenylmalonate.

reactant | Diethyl acetamidomalonate | 6.0 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethoxide | 2.26 g | [O-]CC.[Na+]
reactant | 5-bromo-1-pentene | 5.22 g | BrCCCC=C | C5H9Br
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | diethyl 2-acetamido-2-pentenylmalonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)C=CCCC | C14H23NO5
